US06057454
1.4 ml of triethylamine and 0.9 ml of phenylacetyl chloride are added to a suspension of 1 g of 8-aminomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride in 40 ml of dimethylformamide. After reacting for 16 hours at a temperature in the region of 20° C., the reaction mixture is filtered and the filtrate is evaporated under reduced pressure. The residue is suspended in 50 ml of acetone. After filtration and drying under reduced pressure (1 mbar) at 60° C., 100 mg of N-[(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)methyl]phenylacetamide are obtained in the form of a beige solid melting above 260° C. (1H NMR spectrum in d6-DMSO, T=300 K, δ in ppm: 3.51 (2H, s, CH2 -Ph), 3.97 (2H, s, CH2), 4.35 (2H, d, J=4 Hz, NCH2), between 7.20 and 7.40 (6H, m, arom. H), 7.43 (1H, s, arom. CH), 7.60 (1H, s, arom. CH), 7.78 (1H, d, J=7 Hz, arom. CH), 7.98 (1H, s, arom. CH), 8.63 (1H, broad t, NH), 12.3 (1H, s, NH)).

reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.9 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 8-aminomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 1 g | Cl.NCC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)methyl]phenylacetamide | 100 mg | O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CNC(CC3=CC=CC=C3)=O)C=CN2 | C22H18N4O2
